Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ year old man with a history of IBS-D,
previous history of injection drug use, who presents to the ED
for abdominal pain. This is his third presentation to the ED for
similar symptoms in the past 4 days. He previously presented on
___ for pain and dark stools. Stool was guaiac negative on
rectal exam, hemoglobin was normal, and a CT of the abdomen was
notable only for an appendicolith but no evidence of
appendicitis. He was discharged from the ED with conservative
treatment. He saw his PCP earlier today with ___ pain, the 
most
severe it has been over the past week. He was diffusely tender 
on
exam but had a soft abdomen. His PCP tried to schedule him for
urgent outpatient endoscopy, but was unable to do so, so she
referred him to the ED. Patient endorses watery bowel movements,
relatively unchanged from prior. Denies fevers, chills, dyspnea,
chest pain, myalgias, arthralgias, anorexia, nausea.

- In the ED, initial vitals were:
Temp 97.8 | HR 120 | BP 127/87 | RR 18 | SpO2 98% RA 

-Repeat vitals were:
Temp 97.9 | HR 80 | BP 153/74 | RR 18 | SpO2 100% RA 
 
- Exam was notable for:
Diffusely tender abdomen

- Labs were relatively unremarkable

- Studies were notable for:
CT abdomen pelvis which revealed appendicolith, unchanged from
prior, without any evidence of acute appendicitis

- The patient was given:
Ketorolac 15mg IV
Acetaminophen 650mg PO
1L NS

- GI were consulted who recommended ED observation, stool
softeners/laxatives and tylenol for pain control.

On arrival to the floor, patient still complaining of ___
abdominal pain. He says he feels miserable and just wants his
pain to be decreased so that he can finally get some sleep. He
understands the risks of using opioid medication, given his
history of heroin use, but is willing to take that risk, as no
other medications have seemed to help him.
 
Past Medical History:
IBS-D
History of opioid use disorder, PWID
Anxiety
SIBO
 
Social History:
___
Family History:
Father with pancreatic tumor. Maternal grandmother with stomach
cancer. Aunt with pancreatic cancer. Mother with brain cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ 0010 Temp: 97.4 PO BP: 136/83 HR: 61 RR: 18 O2
sat: 99% O2 delivery: RA 
GENERAL: Lying in bed, writhing in pain.
HEENT: Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowel sounds. Soft. Diffusely tender to light
palpation, worst in lower abdomen. No rebound or guarding. 
EXTREMITIES: Warm. No clubbing, cyanosis, or edema. 
NEUROLOGIC: AAOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. Normal sensation.

DISCHARGE PHYSICAL EXAM:
========================
PHYSICAL EXAM:
VS: 24 HR Data (last updated ___ @ 805)
    Temp: 97.8 (Tm 987.2), BP: 128/75 (106-132/68-79), HR: 61
(54-77), RR: 18 (___), O2 sat: 99% (97-99), O2 delivery: Ra   
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender, no rebound/guarding,
no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial/DP pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: Warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
===============
ADMISSION LABS:
___

___ 07:12PM   GLUCOSE-100 UREA N-15 CREAT-0.8 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-23 ANION GAP-14
___ 07:12PM   ALT(SGPT)-52* AST(SGOT)-31 ALK PHOS-80 TOT 
BILI-0.2
___ 07:12PM   LIPASE-22
___ 07:12PM   ALBUMIN-4.7
___ 07:12PM   WBC-11.7* RBC-5.01 HGB-15.1 HCT-44.7 MCV-89 
MCH-30.1 MCHC-33.8 RDW-13.4 RDWSD-43.8
___ 07:12PM   NEUTS-65.2 ___ MONOS-7.2 EOS-1.4 
BASOS-0.6 IM ___ AbsNeut-7.60* AbsLymp-2.91 AbsMono-0.84* 
AbsEos-0.16 AbsBaso-0.07
___ 07:12PM   PLT COUNT-299

========================
PERTINENT INTERVAL LABS:
========================
None

===============
DISCHARGE LABS:
===============

___ 08:10AM BLOOD WBC-8.8 RBC-5.03 Hgb-14.8 Hct-44.8 MCV-89 
MCH-29.4 MCHC-33.0 RDW-13.7 RDWSD-44.5 Plt ___
___ 08:10AM BLOOD Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD ___ PTT-30.6 ___
___ 08:00AM BLOOD ALT-49* AST-27 AlkPhos-69 TotBili-0.2
___ 08:10AM BLOOD Calcium-9.5 Phos-3.9 Mg-2.2

================
IMAGING STUDIES:
================
___ CT ___ with contrast
IMPRESSION: 
   
1. Appendicolith within the distal appendix which remains mildly 
dilated to 9 
mm, similar to that seen on the prior CT, though without 
associated 
inflammatory changes to suggest acute appendicitis.  
Additionally, the mildly 
enlarged size of the distal appendix is similar to that seen on 
prior MR 
enterography from ___. 
2. No abnormality otherwise identified to account for the 
patient's symptoms. 

___ CT ___ with contrast
IMPRESSION: 
    
1. Borderline appendix diameter measuring 7 mm proximally, 
without 
periappendiceal stranding.  The lack of periappendiceal 
inflammation argues 
against acute appendicitis.  Correlate with clinical concern for 
such. 
2. Fluid in the right colon and in some loops of small bowel is 
nonspecific, 
but could relate to a mild enterocolitis.  No bowel obstruction. 


=============
MICROBIOLOGY:
=============

___ 2:11 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
__________________________________________________________
___ 5:15 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      VIRIDANS STREPTOCOCCI.    10,000-100,000 CFU/mL. 

 
Brief Hospital Course:
SUMMARY:
=============================
Mr. ___ is a ___ with hx IBS-D who presented with severe 
abdominal pain and was found to have large stool burden 
consistent with constipation. 

ACUTE ISSUES:
=============================

# Abdominal pain
On presentation CT A/P showed appendicolith with appendiceal 
distention which was unchanged from prior imaging. General 
Surgery was consulted but determined there was no surgical 
indication for intervention. GI was also consulted, and on 
further review of the CT, determined that there was a large 
stool burden in the RLQ likely causing his pain. Two UAs with 
urine cultures were negative. Home eluxadoline was held. Pain 
was initially managed with hydromorphone IV in the ED that was 
changed to PO oxycodone on day 1 before changing to dicyclomine 
and Tylenol on days ___ prior to discharge. He was treated with 
Miralax, Senna, mineral enemas, and milk of magnesia, with 
subsequent large BM that brought immediate relief. 

CHRONIC ISSUES:
=============================
# IBS-d
Held home eluxadoline and started dicyclomine QID. Per GI notes, 
his home regimen is BID as needed for cramps. 

#Anxiety
Continued home duloxetine.

TRANSITIONAL ISSUES:
=============================
[ ] Follow up with GI for IBS to potentially change your 
medicine regimen to balance between constipation and diarrhea

MEDICATION CHANGES:
=============================
- Eluxadoline (Viberzi) was held per GI with plans to restart 
___ days post discharge.
- A prescription was provided for #28 dicyclomine 10 mg BID PRN 
cramps per recent GI note.
- Ramelteon rather than zolpidem was given effectively for 
sleep. He will continue his home zolpidem pending further 
outpatient visits.

CODE STATUS: Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DULoxetine ___ 90 mg PO DAILY 
2. eluxadoline 100 mg oral BID 
3. Zolpidem Tartrate 10 mg PO QHS:PRN Insomnia 

 
Discharge Medications:
1.  DICYCLOMine 10 mg PO BID cramps 
RX *dicyclomine 10 mg 1 capsule by mouth twice a day as needed 
Disp #*28 Capsule Refills:*0 
2.  DULoxetine ___ 90 mg PO DAILY  
3.  eluxadoline 100 mg oral BID  
4.  Zolpidem Tartrate 10 mg PO QHS:PRN Insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
# Acute on chronic abdominal pain
# Constipation

SECONDARY:
# Irritable bowel syndrome, diarrhea predominant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You had worsening abdominal pain without a known cause.

What did you receive in the hospital?
- You had a CT scan which showed a large amount of stool in the 
colon, meaning you were probably very constipated
- You were seen by the Gastroenterology Team
- You were given laxatives to make you have a bowel movement
- You felt much better after having a large bowel movement and 
were ready to go home!

What should you do once you leave the hospital?
- Please take your medications as prescribed and go to your 
future appointments which are listed below.

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___